US04589905
Carbonyldiimidazole (2.5 grams, 0.015 mole) was added to a solution of 5-cyano-1-tert-butyl-1H-pyrazole-4-carboxylic acid (2.0 grams, 50.01 mole) in DMF. The solution was stirred at room temperature for twenty minutes. Aqueous methylamine (1.5 ml, 0.015 mole) was added and the reaction mixture was stirred at room temperature for 16 hours, then poured into ice-water. The product precipitated and was collected, dried, and recrystallized from ethanol, yielding 1.4 grams of 5-cyano-1-tert-butyl-N-methyl-1H-pyrazole-4-carboxamide, m.p., 164°-166° C.

reactant | Carbonyldiimidazole | 0.015 mole, 2.5 grams | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-cyano-1-tert-butyl-1H-pyrazole-4-carboxylic acid | 50.01 mole, 2.0 grams | C(#N)C1=C(C=NN1C(C)(C)C)C(=O)O | C9H11N3O2
reactant | methylamine | 0.015 mole, 1.5 ml | CN | CH5N
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-cyano-1-tert-butyl-N-methyl-1H-pyrazole-4-carboxamide | 1.4 grams | C(#N)C1=C(C=NN1C(C)(C)C)C(=O)NC | C10H14N4O
